US07705027B2
5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-(3-chloro-phenyl)-isoxazole-3-carboxylic acid ethylamide
5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-bromo-isoxazole-3-carboxylic acid ethylamide (60 mg, 0.11 mmol), and 3-chlorobenzene boronic acid (23 mg, 1.3 equiv.) were coupled together using the suzuki method previously described to provide 35 mg (55% yield) of the crude as a brown powder which was taken on to the next step.

reactant | 5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-bromo-isoxazole-3-carboxylic acid ethylamide | 0.11 mmol, 60 mg | C(C)NC(=O)C1=NOC(=C1Br)C1=C(C=C(C(=C1)Cl)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H22BrClN2O4
reactant | 3-chlorobenzene boronic acid | 23 mg, 1.3 equiv. | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-(3-chloro-phenyl)-isoxazole-3-carboxylic acid ethylamide | 55% yield | C(C)NC(=O)C1=NOC(=C1C1=CC(=CC=C1)Cl)C1=C(C=C(C(=C1)Cl)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C32H26Cl2N2O4
